US04945098
1-Octadecylaminocarbonyloxy-3-[8-(1-imidazolyl)octanoyloxy]-2-methylenepropane
1-Octadecylaminocarbonyloxy-3-(8-bromooctanoyloxy)-2-methylenepropane (from Preparation 11) (1.18 g) and imidazole (0.68 g) were stirred in toluene (20 ml) at 104° C. for 14 hours. The mixture was cooled and evaporated in vacuo. The residue was chromatographed on silica gel 60 (70-230 mesh, 40 g) with ether/chloroform/triethylamine (1:1:0.04) as eluent to give the desired product.

reactant | 1-Octadecylaminocarbonyloxy-3-(8-bromooctanoyloxy)-2-methylenepropane | 1.18 g | C(CCCCCCCCCCCCCCCCC)NC(=O)OCC(COC(CCCCCCCBr)=O)=C | C31H58BrNO4
reactant | imidazole | 0.68 g | N1C=NC=C1 | C3H4N2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Octadecylaminocarbonyloxy-3-[8-(1-imidazolyl)octanoyloxy]-2-methylenepropane | C(CCCCCCCCCCCCCCCCC)NC(=O)OCC(COC(CCCCCCCN1C=NC=C1)=O)=C | C34H61N3O4
